US06197941B1
a) 3-[(2-Hydroxyethylthio)methyl]-5-(3′-nitrophenyl)-1,2,4-oxadiazole
A mixture of 132 g (0.55 mmol) of 3-chloromethyl-5-(3′-nitrophenyl)-1,2,4-oxadiazole (obtainable by reaction of 3-nitrobenzoyl chloride with chloroacetamide oxime), 39.0 ml (0.56 mol) of mercaptoethanol and 80 ml of triethylamine in 700 ml of 1-methoxy-2-propanol was heated to 100° C. for 4 h and, after cooling down, poured onto ice-water. The precipitated solid was filtered off with suction, washed with water and dried at 40° C. under reduced pressure. 142 g of the compound of the formula

reactant | 3-chloromethyl-5-(3′-nitrophenyl)-1,2,4-oxadiazole | 0.55 mmol, 132 g | ClCC1=NOC(=N1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H6ClN3O3
reactant | mercaptoethanol | 0.56 mol, 39.0 ml | SC(C)O | C2H6OS
reactant | triethylamine | 80 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methoxy-2-propanol | 700 ml | COCC(C)O | C4H10O2
product | 3-[(2-Hydroxyethylthio)methyl]-5-(3′-nitrophenyl)-1,2,4-oxadiazole | OCCSCC1=NOC(=N1)C1=CC(=CC=C1)[N+](=O)[O-] | C11H11N3O4S
